US07645805B2
Synthesis of L-Phenylalanine Actyl Ester (MdL063)
L-Phenylalanine (5.0 g, 0.03 mol), 1-octanol (3.9 g, 0.03 mol) and p-toluenesulfonic acid monohydrate (6.3 g, 0.038 mol) were suspended in toluene (200 ml) in a flask equipped with a Dean-Stark trap and refluxed for 20 h., resulting in a clear solution. Subsequently, the solvent was removed in vacuo and the remaining white solid was dissolved in CHCl3 (150 ml). This solution was extracted with 10% sodium carbonate, water and brine and dried over MgSO4. Evaporation of the solvent in vacuo yielded a colourless oil (7.7 g, 0.028 mol, 92%). 1H NMR (CDCl3): δ=7.19 (m, 5H), 4.04 (t, 2H, 3J=6.59 Hz), 3.67 (dd, 1H, 3JAB=5.5 Hz, 3JAB=7.7 Hz), 3.03 (dd, 1H, 2JAB=13.6 Hz, 3JAB=5.5 Hz), 2.81 (dd, 1H, 2JAB=13.6 Hz, 3JAB=7.7 Hz), 1.54 (m, 2H), 1.47 (s, 2H), 1.22 (a, 10H), 0.83 (t, 3H, 3J=6.8 Hz); 13C NMR (CDCl3): δ=175.1, 137.15, 129.15, 128.40, 126.65, 65.02, 55.75, 41.06, 31.65, 29.06, 28.41, 25.74, 22.51, 13.97.

reactant | L-Phenylalanine | 0.03 mol, 5.0 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | 1-octanol | 0.03 mol, 3.9 g | C(CCCCCCC)O | C8H18O
reactant | p-toluenesulfonic acid monohydrate | 0.038 mol, 6.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | L-Phenylalanine Actyl Ester | 0.028 mol, 7.7 g, 92% | C(C)(=O)OC([C@@H](N)CC1=CC=CC=C1)=O | C11H13NO3
